US07772262B2
c) Phenyl 2-(4-fluorophenyl)-2-nitroethanesulfonate
56.3 g of sodium methanolate were taken up in 1 l of DMSO and, at RT, 56.3 ml of nitromethane were added dropwise. The internal temperature rose to 40° C. during this. Then, at a temperature between 26° C. and 30° C., a solution of 145.0 g of phenyl 2-(4-fluorophenyl)ethenesulfonate in 1 l of DMSO was added dropwise. Stirring at RT for 1 hour was followed by leaving to stand at RT for 16 hours and then stirring at RT for a further 6 hours and 30 minutes. The reaction mixture was then poured into 8 kg of ice and extracted 5 times with 2 l of EA each time. After drying over Na2SO4, the solvent was removed in vacuo. Chromatography on silica gel with EA/HEP 1:5 afforded 77.35 g of a colorless oil.

reactant | sodium methanolate | 56.3 g | C[O-].[Na+]
reactant | nitromethane | 56.3 ml | [N+](=O)([O-])C | CH3NO2
reactant | phenyl 2-(4-fluorophenyl)ethenesulfonate | 145.0 g | FC1=CC=C(C=C1)C=CS(=O)(=O)OC1=CC=CC=C1 | C14H11FO3S
solvent | DMSO | 1 l | CS(=O)C | C2H6OS
solvent | DMSO | 1 l | CS(=O)C | C2H6OS
product | Phenyl 2-(4-fluorophenyl)-2-nitroethanesulfonate | 77.35 g | FC1=CC=C(C=C1)C(CS(=O)(=O)OC1=CC=CC=C1)[N+](=O)[O-] | C14H12FNO5S
